US09315495B2
To a solution of 5-isobutylthiophene-2-carbaldehyde (192 mg, 1.14 mmol) in 3 mL acetic acid at room temperature was added bromine (0.07 mL, 1.36 mmol). The resulting solution was stirred at room temperature in the dark for 48 h before being poured into 35 mL saturated sodium bicarbonate. Organics were extracted with ether (2×30 mL), dried with magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel (5% ethyl acetate in hexanes) to give 4-bromo-5-isobutylthiophene-2-carbaldehyde (147 mg, 52%). Used without further purification or characterization.

reactant | 5-isobutylthiophene-2-carbaldehyde | 1.14 mmol, 192 mg | C(C(C)C)C1=CC=C(S1)C=O | C9H12OS
reactant | bromine | 1.36 mmol, 0.07 mL | BrBr | Br2
reactant | sodium bicarbonate | 35 mL | C([O-])(O)=O.[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-5-isobutylthiophene-2-carbaldehyde | 147 mg, 52% | BrC=1C=C(SC1CC(C)C)C=O | C9H11BrOS
